US06326386B1
N-(2-Carbamoyl-ethyl)-3-chloro-N-cyclopropyl-5-[2-(pyridin-4-ylamino)-ethoxy]-benzamide hydrochloride
A solution of (2-{3-chloro-5-[(2-cyano-ethyl)-cyclopropyl-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester (0.075 g) in a mixture of dichloromethane (5 ml) and trifluoroacetic acid (5 ml) was stored at room temperature for 18 h and then concentrated under reduced pressure. The residue was triturated with ethereal hydrogen chloride to give the title compound (0.065 g) as a colourless gum.

reactant | (2-{3-chloro-5-[(2-cyano-ethyl)-cyclopropyl-carbamoyl]-phenoxy}-ethyl)-pyridin-4-yl-carbamic acid tert-butyl ester | 0.075 g | C(C)(C)(C)OC(N(C1=CC=NC=C1)CCOC1=CC(=CC(=C1)C(N(C1CC1)CCC#N)=O)Cl)=O | C25H29ClN4O4
reactant | trifluoroacetic acid | 5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | N-(2-Carbamoyl-ethyl)-3-chloro-N-cyclopropyl-5-[2-(pyridin-4-ylamino)-ethoxy]-benzamide hydrochloride | 0.065 g | Cl.C(N)(=O)CCN(C(C1=CC(=CC(=C1)OCCNC1=CC=NC=C1)Cl)=O)C1CC1 | InChI=1S/C20H23ClN4O3.ClH/c21-15-11-14(20(27)25(17-1-2-17)9-5-19(22)26)12-18(13-15)28-10-8-24-16-3-6-23-7-4-16;/h3-4,6-7,11-13,17H,1-2,5,8-10H2,(H2,22,26)(H,23,24);1H
